US08283353B2
ethyl 4-(4H-1,2,4-triazol-3-ylamino)cyclohexanecarboxylate
To a solution (200 mL) of 1H-1,2,4-triazol-3-amine (11 g) and ethyl 4-oxocyclohexanecarboxylate (28 g) in acetic acid was added sodium cyanoborohydride (35 g), and the mixture was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the solvent was evaporated under reduced pressure. The obtained residue was poured into saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with a mixed solvent of ethyl acetate and isopropyl alcohol (3:1). The obtained extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (13 g, 40%).

reactant | 1H-1,2,4-triazol-3-amine | 200 mL, 11 g | N1N=C(N=C1)N | C2H4N4
reactant | ethyl 4-oxocyclohexanecarboxylate | 28 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | sodium cyanoborohydride | 35 g | C(#N)[BH3-].[Na+]
reactant | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 4-(4H-1,2,4-triazol-3-ylamino)cyclohexanecarboxylate | 13 g, 40% | N=1N=C(NC1)NC1CCC(CC1)C(=O)OCC | C11H18N4O2
